US09260414B2
(a) [(S)-2-Methyl-1-((S)-2-{4-[4′-(4-piperazin-1-yl-phenylcarbamoyl)-biphenyl-4-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester
To a solution of [4-{4-[(4′-{2-[(S)-1-((S)-2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-1H-imidazol-4-yl}-biphenyl-4-carbonyl)-amino]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester (42.4 mg, 0.0565 mmol) in dichloromethane (0.67 mL, 10 mmol) was added trifluoroacetic acid (0.3 mL, 0.004 mmol). The reaction mixture was stirred for 1 h at room temperature, concentrated, dissolved in methanol (1 mL), passed through a Stratospheres™ PL-CO3 resin, and the filtrate was concentrated to provide the title compound. (m/z): [M+H]+ calcd for C37H43N7O4 650.34 found 650.8.

reactant | 4-{4-[(4′-{2-[(S)-1-((S)-2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-1H-imidazol-4-yl}-biphenyl-4-carbonyl)-amino]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester | 0.0565 mmol, 42.4 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1N=C(NC1)[C@H]1N(CCC1)C([C@H](C(C)C)NC(=O)OC)=O | C42H51N7O6
reactant | dichloromethane | 10 mmol, 0.67 mL | ClCCl | CH2Cl2
reactant | trifluoroacetic acid | 0.004 mmol, 0.3 mL | FC(C(=O)O)(F)F | C2HF3O2
product | [(S)-2-Methyl-1-((S)-2-{4-[4′-(4-piperazin-1-yl-phenylcarbamoyl)-biphenyl-4-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(NC1=CC=C(C=C1)N1CCNCC1)=O)=O | C37H43N7O4
